US06632921B1
N-BOC-11-aminoundecanoic acid (Bachem, 0.60 g, 2.0 mmoles) was activated with disuccinimidylcarbonate (0.56 g, 2.2 mmoles) and 4-dimethylamino-pyridine (0.02 g, 0.2 mmoles) in 10 mL of dimethylformamide/pyridine (2/1, v/v) and reacted with the resin product from Part C for 60 minutes at room temperature. The resulting resin was separated by filtration, the N-α-BOC group was removed with trifluoroacetic acid in dichloromethane, and the resulting resin was treated with 90% hydrogen fluoride/anisole (v/v) for 60 minutes at 0° C. The hydrogen fluoride was removed by evaporation, and the product was extracted into 30% acetic acid/water and then lyophilized. The crude material was purified by reverse phase HPLC on a Waters Deltapak RPC-18 column using a linear gradient of 1% to 35% acetonitrile (0.05% trifluoroacetic acid) in water (0.05% trifluoroacetic acid) over 30 minutes at 15 mL/min, which after lyophilization, gave 84.8 mg of 98% pure (by HPLC) L-leucine, N-[[(11-amino-undecanoyl)-L-seryl]-L-lysyl]-, bis-trifluoroacetate.

reactant | N-BOC-11-aminoundecanoic acid | 2.0 mmoles, 0.60 g | C(=O)(OC(C)(C)C)NCCCCCCCCCCC(=O)O | C16H31NO4
reactant | dimethylformamide pyridine | 10 mL | CN(C=O)C.N1=CC=CC=C1
catalyst | 4-dimethylamino-pyridine | 0.2 mmoles, 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
product | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
